### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/SpectralObject): homology of the differentials

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #35374
- [x] depends on: #35375

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
...
+@[simps!]
+noncomputable def dCokernelSequence
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.d_map_fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃)
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Epi (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).g := by
+  dsimp
+  infer_instance
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    Epi (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).g :=
  inferInstanceAs (Epi (X.map f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄) ..))
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+  rw [X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄)
+    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄ h₃₄) n₁ n₂ n₃] at hx₂'
+  obtain ⟨A₁, π₁, _, x₁, hx₁⟩ :=
+    ((X.sequenceΨ_exact f₂ f₃ f₄ _ rfl f₃₄ h₃₄ n₁ n₂).exact 1).exact_up_to_refinements
+      (x₂ ≫ X.ιE ..) (by
+        dsimp [sequenceΨ, Precomp.map]
+        rw [assoc, hx₂'])
+  dsimp [sequenceΨ, Precomp.map] at x₁ hx₁
+  refine ⟨A₁, π₁, inferInstance, x₁ ≫ X.πE f₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
+  rw [← cancel_mono (X.ιE ..), assoc, assoc, assoc, hx₁, πE_d_ιE ..]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:75]:
```suggestion
  refine (ShortComplex.exact_iff_exact_up_to_refinements _).mpr (fun _ x₂ hx₂ ↦ ?_)
  dsimp at hx₂ ⊢
  have hx₂' := hx₂ =≫ X.ιE ..
  simp only [assoc, zero_comp] at hx₂'
  rw [X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄)
    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄ h₃₄) n₁ n₂ n₃] at hx₂'
  obtain ⟨A₁, π₁, _, x₁, hx₁⟩ :=
    ((X.sequenceΨ_exact f₂ f₃ f₄ _ rfl f₃₄ h₃₄ n₁ n₂).exact 1).exact_up_to_refinements
      (x₂ ≫ X.ιE ..) (by dsimp [sequenceΨ, Precomp.map]; rw [assoc, hx₂'])
  dsimp [sequenceΨ, Precomp.map] at hx₁
  refine ⟨A₁, π₁, inferInstance, x₁ ≫ X.πE f₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
  rw [← cancel_mono (X.ιE ..), assoc, assoc, assoc, hx₁, πE_d_ιE ..]
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 3]
```diff
@@ -0,0 +1,175 @@
...
+@[simps!]
+noncomputable def dKernelSequence
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.map_fourδ₁Toδ₀_d f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃)
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).f := by
+  dsimp
+  infer_instance
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).f :=
  inferInstanceAs (Mono (X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃) ..))
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 4]
```diff
@@ -0,0 +1,175 @@
...
+  have hy₂' := hy₂ =≫ (X.d f₁ f₂ f₃ f₄ f₅ n₀ n₁ n₂ n₃ ≫ X.ιE ..)
+  simp only [assoc, reassoc_of% hx₂, zero_comp, comp_zero, πE_d_ιE] at hy₂'
+  obtain ⟨A₂, π₂, _, y₁, hy₁⟩ :=
+    ((X.sequenceΨ_exact f₂ f₃ f₄ f₂₃ h₂₃ _ rfl n₁ n₂).exact 0).exact_up_to_refinements
+      y₂ hy₂'.symm
+  dsimp [sequenceΨ] at y₁ hy₁
+  refine ⟨A₂, π₂ ≫ π₁, inferInstance, y₁ ≫ X.πE f₂₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
+  rw [assoc, assoc, hy₂, reassoc_of% hy₁,
+    X.πE_map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃)
+      (threeδ₁Toδ₀ f₂ f₃ f₄ f₂₃ h₂₃) n₀ n₁ n₂]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  refine (ShortComplex.exact_iff_exact_up_to_refinements _).mpr (fun _ x₂ hx₂ ↦ ?_)
  dsimp at hx₂ ⊢
  obtain ⟨A₁, π₁, _, y₂, hy₂⟩ :=
    surjective_up_to_refinements_of_epi (X.πE f₃ f₄ f₅ n₀ n₁ n₂) x₂
  have hy₂' := hy₂ =≫ (X.d f₁ f₂ f₃ f₄ f₅ n₀ n₁ n₂ n₃ ≫ X.ιE ..)
  simp only [assoc, reassoc_of% hx₂, zero_comp, comp_zero, πE_d_ιE] at hy₂'
  obtain ⟨A₂, π₂, _, y₁, hy₁⟩ :=
    ((X.sequenceΨ_exact f₂ f₃ f₄ f₂₃ h₂₃ _ rfl n₁ n₂).exact 0).exact_up_to_refinements y₂ hy₂'.symm
  dsimp [sequenceΨ] at y₁ hy₁
  refine ⟨A₂, π₂ ≫ π₁, inferInstance, y₁ ≫ X.πE f₂₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
  simp [hy₂, reassoc_of% hy₁, X.πE_map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃)
    (threeδ₁Toδ₀ f₂ f₃ f₄ f₂₃ h₂₃) n₀ n₁ n₂]
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 5]
```diff
@@ -0,0 +1,175 @@
...
+set_option backward.isDefEq.respectTransparency false in
+@[reassoc]
+lemma map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃
+    (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃) n₁ n₂ n₃ hn₂ hn₃ ≫
+      X.map f₃ f₄ f₅ f₃ f₄ f₅₆ (fourδ₄Toδ₃ f₃ f₄ f₅ f₆ f₅₆ h₅₆) n₁ n₂ n₃ hn₂ hn₃ =
+    X.map f₂₃ f₄ f₅ f₂₃ f₄ f₅₆ (fourδ₄Toδ₃ f₂₃ f₄ f₅ f₆ f₅₆ h₅₆) n₁ n₂ n₃ hn₂ hn₃ ≫
+      X.map f₂₃ f₄ f₅₆ f₃ f₄ f₅₆ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅₆ f₂₃ h₂₃) n₁ n₂ n₃ hn₂ hn₃ := by
+  simp only [← map_comp]
+  congr 1
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 6]
```diff
@@ -0,0 +1,175 @@
...
+/-- The homology of the short complex
+`E^{n₁}(f₅, f₆, f₇) ⟶ E^{n₀}(f₃, f₄, f₅) ⟶ E^{n₂}(f₁, f₂, f₃)` identifies to
+`E^n(f₂ ≫ f₃, f₄, f₅ ≫ f₆)`. -/
+noncomputable def dHomologyIso
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia)
+    (hn₃ : n₂ + 1 = n₃ := by lia) (hn₄ : n₃ + 1 = n₄ := by lia) :
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄).homology ≅
+      X.E f₂₃ f₄ f₅₆ n₁ n₂ n₃ hn₂ hn₃ :=
+  (X.dHomologyData f₁ f₂ f₃ f₄ f₅ f₆ f₇ f₂₃
+    h₂₃ f₅₆ h₅₆ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄).left.homologyIso
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  (X.dHomologyData f₁ f₂ f₃ f₄ f₅ f₆ f₇ f₂₃ h₂₃ f₅₆ h₅₆ ..).left.homologyIso
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 7]
```diff
@@ -0,0 +1,167 @@
...
+  (f₃₄ : i₂ ⟶ i₄) (h₃₄ : f₃ ≫ f₄ = f₃₄)
+  (n₀ n₁ n₂ n₃ : ℤ)
+
+/-- The (exact) sequence expressing `E^n(f₁, f₂, f₃ ≫ f₄)` as the cokernel
+of the differential `E^{n-1}(f₃, f₄, f₅) ⟶ E^n(f₁, f₂, f₃)` -/
+@[simps!]
+noncomputable def dCokernelSequence
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.d_map_fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  ShortComplex.mk _ _ (X.d_map_fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃)
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 8]
```diff
@@ -0,0 +1,167 @@
...
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Epi (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).g :=
+  inferInstanceAs (Epi (X.map f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄) ..))
+
+set_option backward.isDefEq.respectTransparency false in
+lemma dCokernelSequence_exact
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).Exact := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃).Exact := by
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 9]
```diff
@@ -0,0 +1,167 @@
...
+  rw [ShortComplex.exact_iff_exact_up_to_refinements]
+  intro A x₂ hx₂
+  dsimp at hx₂ ⊢
+  have hx₂' := hx₂ =≫ X.ιE ..
+  simp only [assoc, zero_comp] at hx₂'
+  rw [X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄)
+    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄ h₃₄) n₁ n₂ n₃] at hx₂'
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  rw [X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄)
    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄) n₁ n₂ n₃] at hx₂'
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 10]
```diff
@@ -0,0 +1,167 @@
...
+  refine ⟨A₁, π₁, inferInstance, x₁ ≫ X.πE f₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
+  rw [← cancel_mono (X.ιE ..), assoc, assoc, assoc, hx₁, πE_d_ιE ..]
+
+/-- The (exact) sequence expressing `E^n(f₂ ≫ f₃, f₄, f₅)` as the kernel
+of the differential `E^n(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)` -/
+@[simps!]
+noncomputable def dKernelSequence
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.map_fourδ₁Toδ₀_d f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  ShortComplex.mk _ _ (X.map_fourδ₁Toδ₀_d f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃)
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 11]
```diff
@@ -0,0 +1,167 @@
...
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).f :=
+  inferInstanceAs (Mono (X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃) ..))
+
+set_option backward.isDefEq.respectTransparency false in
+lemma dKernelSequence_exact
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).Exact := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃).Exact := by
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 12]
```diff
@@ -0,0 +1,167 @@
...
+  rw [ShortComplex.exact_iff_exact_up_to_refinements]
+  intro A x₂ hx₂
+  dsimp at hx₂ ⊢
+  obtain ⟨A₁, π₁, _, y₂, hy₂⟩ :=
+    surjective_up_to_refinements_of_epi (X.πE f₃ f₄ f₅ n₀ n₁ n₂) x₂
+  have hy₂' := hy₂ =≫ (X.d f₁ f₂ f₃ f₄ f₅ n₀ n₁ n₂ n₃ ≫ X.ιE ..)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  have hy₂' := hy₂ =≫ X.d f₁ f₂ f₃ f₄ f₅ n₀ n₁ n₂ n₃ ≫ X.ιE ..
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 13]
```diff
@@ -0,0 +1,167 @@
...
+  simp only [assoc, reassoc_of% hx₂, zero_comp, comp_zero, πE_d_ιE] at hy₂'
+  obtain ⟨A₂, π₂, _, y₁, hy₁⟩ :=
+    ((X.sequenceΨ_exact f₂ f₃ f₄ f₂₃ h₂₃ _ rfl n₁ n₂).exact 0).exact_up_to_refinements y₂ hy₂'.symm
+  dsimp [sequenceΨ] at y₁ hy₁
+  refine ⟨A₂, π₂ ≫ π₁, inferInstance, y₁ ≫ X.πE f₂₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
+  simp [hy₂, reassoc_of% hy₁, X.πE_map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃)
+    (threeδ₁Toδ₀ f₂ f₃ f₄ f₂₃ h₂₃) n₀ n₁ n₂]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  refine ⟨A₂, π₂ ≫ π₁, inferInstance, y₁ ≫ X.πE f₂₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
  simp [sequenceΨ, hy₂, reassoc_of% hy₁, X.πE_map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃)
    (threeδ₁Toδ₀ f₂ f₃ f₄ f₂₃) n₀ n₁ n₂]
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 14]
```diff
@@ -0,0 +1,167 @@
...
+  (n₀ n₁ n₂ n₃ n₄ : ℤ)
+
+/-- The short complex `E^{n₁}(f₅, f₆, f₇) ⟶ E^{n₀}(f₃, f₄, f₅) ⟶ E^{n₂}(f₁, f₂, f₃)`
+given by the differentials of a spectral object. -/
+@[simps!]
+noncomputable def dShortComplex
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia)
+    (hn₃ : n₂ + 1 = n₃ := by lia) (hn₄ : n₃ + 1 = n₄ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.d_d f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  ShortComplex.mk _ _ (X.d_d f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄)
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 15]
```diff
@@ -0,0 +1,167 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+@[reassoc]
+lemma map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃
+    (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃) n₁ n₂ n₃ hn₂ hn₃ ≫
+      X.map f₃ f₄ f₅ f₃ f₄ f₅₆ (fourδ₄Toδ₃ f₃ f₄ f₅ f₆ f₅₆ h₅₆) n₁ n₂ n₃ hn₂ hn₃ =
+    X.map f₂₃ f₄ f₅ f₂₃ f₄ f₅₆ (fourδ₄Toδ₃ f₂₃ f₄ f₅ f₆ f₅₆ h₅₆) n₁ n₂ n₃ hn₂ hn₃ ≫
+      X.map f₂₃ f₄ f₅₆ f₃ f₄ f₅₆ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅₆ f₂₃ h₂₃) n₁ n₂ n₃ hn₂ hn₃ := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃) n₁ n₂ n₃ ≫
      X.map f₃ f₄ f₅ f₃ f₄ f₅₆ (fourδ₄Toδ₃ f₃ f₄ f₅ f₆ f₅₆) n₁ n₂ n₃ =
    X.map f₂₃ f₄ f₅ f₂₃ f₄ f₅₆ (fourδ₄Toδ₃ f₂₃ f₄ f₅ f₆ f₅₆) n₁ n₂ n₃ ≫
      X.map f₂₃ f₄ f₅₆ f₃ f₄ f₅₆ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅₆ f₂₃) n₁ n₂ n₃ := by
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 16]
```diff
@@ -0,0 +1,167 @@
...
+@[simps!]
+noncomputable def dHomologyData
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia)
+    (hn₃ : n₂ + 1 = n₃ := by lia) (hn₄ : n₃ + 1 = n₄ := by lia) :
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄ ).HomologyData :=
+  ShortComplex.HomologyData.ofEpiMonoFactorisation
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄)
+    (X.dKernelSequence_exact f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₁ n₂ n₃ n₄ hn₂ hn₃ hn₄).fIsKernel
+    (X.dCokernelSequence_exact f₃ f₄ f₅ f₆ f₇ f₅₆ h₅₆ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).gIsCokernel
+    (X.map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃ f₂ f₃ f₄ f₅ f₆ f₂₃ h₂₃ f₅₆ h₅₆ n₁ n₂ n₃ hn₂ hn₃)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄).HomologyData :=
  ShortComplex.HomologyData.ofEpiMonoFactorisation
    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄)
    (X.dKernelSequence_exact f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₁ n₂ n₃ n₄).fIsKernel
    (X.dCokernelSequence_exact f₃ f₄ f₅ f₆ f₇ f₅₆ h₅₆ n₀ n₁ n₂ n₃).gIsCokernel
    (X.map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃ f₂ f₃ f₄ f₅ f₆ f₂₃ h₂₃ f₅₆ h₅₆ n₁ n₂ n₃)
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 17]
```diff
@@ -0,0 +1,167 @@
...
+
+@[expose] public section
+
+namespace CategoryTheory
+
+open Category Limits ComposableArrows Preadditive
+
+namespace Abelian
+
+variable {C ι : Type*} [Category C] [Abelian C] [Category ι]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
variable {C ι : Type*} [Category* C] [Abelian C] [Category* ι]
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 18]
```diff
@@ -0,0 +1,167 @@
...
+  rw [ShortComplex.exact_iff_exact_up_to_refinements]
+  intro A x₂ hx₂
+  dsimp at hx₂ ⊢
+  have hx₂' := hx₂ =≫ X.ιE ..
+  simp only [assoc, zero_comp] at hx₂'
+  rw [X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄)
+    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄ h₃₄) n₁ n₂ n₃] at hx₂'
+  obtain ⟨A₁, π₁, _, x₁, hx₁⟩ :=
+    ((X.sequenceΨ_exact f₂ f₃ f₄ _ rfl f₃₄ h₃₄ n₁ n₂).exact 1).exact_up_to_refinements
+      (x₂ ≫ X.ιE ..) (by dsimp [sequenceΨ, Precomp.map]; rw [assoc, hx₂'])
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
      (x₂ ≫ X.ιE ..) (by simp [sequenceΨ, Precomp.map, hx₂'])
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 19]
```diff
@@ -0,0 +1,167 @@
...
+of the differential `E^n(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)` -/
+@[simps!]
+noncomputable def dKernelSequence
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.map_fourδ₁Toδ₀_d f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃)
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).f :=
+  inferInstanceAs (Mono (X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃ h₂₃) ..))
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  inferInstanceAs (Mono (X.map f₂₃ f₄ f₅ f₃ f₄ f₅ (fourδ₁Toδ₀ f₂ f₃ f₄ f₅ f₂₃) ..))
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 20]
```diff
@@ -0,0 +1,167 @@
...
+
+end
+
+variable {i₀ i₁ i₂ i₃ i₄ i₅ i₆ i₇ : ι} (f₁ : i₀ ⟶ i₁) (f₂ : i₁ ⟶ i₂) (f₃ : i₂ ⟶ i₃)
+  (f₄ : i₃ ⟶ i₄) (f₅ : i₄ ⟶ i₅) (f₆ : i₅ ⟶ i₆) (f₇ : i₆ ⟶ i₇)
+  (f₂₃ : i₁ ⟶ i₃) (h₂₃ : f₂ ≫ f₃ = f₂₃)
+  (f₅₆ : i₄ ⟶ i₆) (h₅₆ : f₅ ≫ f₆ = f₅₆)
+  (n₀ n₁ n₂ n₃ n₄ : ℤ)
+
+/-- The short complex `E^{n₁}(f₅, f₆, f₇) ⟶ E^{n₀}(f₃, f₄, f₅) ⟶ E^{n₂}(f₁, f₂, f₃)`
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
/-- The short complex `E^{n-1}(f₅, f₆, f₇) ⟶ E^{n}(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)`
```
This aligns better with the other docstrings

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 21]
```diff
@@ -0,0 +1,167 @@
...
+    (X.map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃ f₂ f₃ f₄ f₅ f₆ f₂₃ h₂₃ f₅₆ h₅₆ n₁ n₂ n₃ hn₂ hn₃)
+
+/-- The homology of the short complex
+`E^{n₁}(f₅, f₆, f₇) ⟶ E^{n₀}(f₃, f₄, f₅) ⟶ E^{n₂}(f₁, f₂, f₃)` identifies to
+`E^n(f₂ ≫ f₃, f₄, f₅ ≫ f₆)`. -/
+noncomputable def dHomologyIso
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia)
+    (hn₃ : n₂ + 1 = n₃ := by lia) (hn₄ : n₃ + 1 = n₄ := by lia) :
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄).homology ≅
+      X.E f₂₃ f₄ f₅₆ n₁ n₂ n₃ hn₂ hn₃ :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄).homology ≅
      X.E f₂₃ f₄ f₅₆ n₁ n₂ n₃ :=
```
It might even fit in a single line now, your choice.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 22]
```diff
@@ -0,0 +1,167 @@
...
+    (hn₃ : n₂ + 1 = n₃ := by lia) (hn₄ : n₃ + 1 = n₄ := by lia) :
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄ ).HomologyData :=
+  ShortComplex.HomologyData.ofEpiMonoFactorisation
+    (X.dShortComplex f₁ f₂ f₃ f₄ f₅ f₆ f₇ n₀ n₁ n₂ n₃ n₄ hn₁ hn₂ hn₃ hn₄)
+    (X.dKernelSequence_exact f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₁ n₂ n₃ n₄ hn₂ hn₃ hn₄).fIsKernel
+    (X.dCokernelSequence_exact f₃ f₄ f₅ f₆ f₇ f₅₆ h₅₆ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).gIsCokernel
+    (X.map_fourδ₁Toδ₀_EMap_fourδ₄Toδ₃ f₂ f₃ f₄ f₅ f₆ f₂₃ h₂₃ f₅₆ h₅₆ n₁ n₂ n₃ hn₂ hn₃)
+
+/-- The homology of the short complex
+`E^{n₁}(f₅, f₆, f₇) ⟶ E^{n₀}(f₃, f₄, f₅) ⟶ E^{n₂}(f₁, f₂, f₃)` identifies to
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
`E^{n-1}(f₅, f₆, f₇) ⟶ E^{n}(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)` identifies to
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 9 above)
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
  rw [assoc, zero_comp, X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄)
    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄) n₁ n₂ n₃] at hx₂'
```

**Review by robin-carlier — COMMENTED** [review]
Looks like the autoparams are really starting to pay off here.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 23]
```diff
@@ -0,0 +1,165 @@
...
+
+section
+
+variable {i₀ i₁ i₂ i₃ i₄ i₅ i₆ i₇ : ι} (f₁ : i₀ ⟶ i₁) (f₂ : i₁ ⟶ i₂) (f₃ : i₂ ⟶ i₃)
+  (f₄ : i₃ ⟶ i₄) (f₅ : i₄ ⟶ i₅)
+  (f₂₃ : i₁ ⟶ i₃) (h₂₃ : f₂ ≫ f₃ = f₂₃)
+  (f₃₄ : i₂ ⟶ i₄) (h₃₄ : f₃ ≫ f₄ = f₃₄)
+  (n₀ n₁ n₂ n₃ : ℤ)
+
+/-- The (exact) sequence expressing `E^n(f₁, f₂, f₃ ≫ f₄)` as the cokernel
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
/-- The exact sequence expressing `E^n(f₁, f₂, f₃ ≫ f₄)` as the cokernel
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 24]
```diff
@@ -0,0 +1,165 @@
...
+of the differential `E^{n-1}(f₃, f₄, f₅) ⟶ E^n(f₁, f₂, f₃)` -/
+@[simps!]
+noncomputable def dCokernelSequence
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:51]: Given you are in the Spectral Object namespace, is the `d` needed in the name?

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 25]
```diff
@@ -0,0 +1,165 @@
...
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.d_map_fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃)
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Epi (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).g :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
instance (_ : n₀ + 1 = n₁) (_ : n₁ + 1 = n₂) (_ : n₂ + 1 = n₃) :
    Epi (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃ ‹_› ‹_› ‹_›).g :=
```
I have a slight preference for this version with anonymous assumptions, since it's an instance.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 26]
```diff
@@ -0,0 +1,165 @@
...
+  inferInstanceAs (Epi (X.map f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄ h₃₄) ..))
+
+set_option backward.isDefEq.respectTransparency false in
+lemma dCokernelSequence_exact
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    (X.dCokernelSequence f₁ f₂ f₃ f₄ f₅ f₃₄ h₃₄ n₀ n₁ n₂ n₃).Exact := by
+  rw [ShortComplex.exact_iff_exact_up_to_refinements]
+  intro A x₂ hx₂
+  dsimp at hx₂ ⊢
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:66]:
```suggestion
  dsimp only [dCokernelSequence_X₃, dCokernelSequence_X₂, dCokernelSequence_g, dCokernelSequence_X₁,
    dCokernelSequence_f] at hx₂ ⊢
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 27]
```diff
@@ -0,0 +1,165 @@
...
+  have hx₂' := hx₂ =≫ X.ιE ..
+  rw [assoc, zero_comp, X.map_ιE f₁ f₂ f₃ f₁ f₂ f₃₄ (fourδ₄Toδ₃ f₁ f₂ f₃ f₄ f₃₄)
+    (threeδ₃Toδ₂ f₂ f₃ f₄ f₃₄) n₁ n₂ n₃] at hx₂'
+  obtain ⟨A₁, π₁, _, x₁, hx₁⟩ :=
+    ((X.sequenceΨ_exact f₂ f₃ f₄ _ rfl f₃₄ h₃₄ n₁ n₂).exact 1).exact_up_to_refinements
+      (x₂ ≫ X.ιE ..) (by simp [sequenceΨ, Precomp.map, hx₂'])
+  dsimp [sequenceΨ, Precomp.map] at hx₁
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:73]:
```suggestion
  dsimp only [sequenceΨ, Nat.reduceAdd, Fin.reduceFinMk, precomp_obj, Fin.isValue,
    dCokernelSequence_X₂, Fin.mk_one, Precomp.obj_one, Fin.zero_eta, Precomp.obj_zero, map',
    homOfLE_leOfHom, precomp_map, Precomp.map, Precomp.map_zero_one] at hx₁
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 28]
```diff
@@ -0,0 +1,165 @@
...
+  refine ⟨A₁, π₁, inferInstance, x₁ ≫ X.πE f₃ f₄ f₅ n₀ n₁ n₂, ?_⟩
+  rw [← cancel_mono (X.ιE ..), assoc, assoc, assoc, hx₁, πE_d_ιE ..]
+
+/-- The (exact) sequence expressing `E^n(f₂ ≫ f₃, f₄, f₅)` as the kernel
+of the differential `E^n(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)` -/
+@[simps!]
+noncomputable def dKernelSequence
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:80]: same question about `d`

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 29]
```diff
@@ -0,0 +1,165 @@
...
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) (hn₃ : n₂ + 1 = n₃ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.map_fourδ₁Toδ₀_d f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃)
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) (hn₃ : n₂ + 1 = n₃) :
+    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ hn₁ hn₂ hn₃).f :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]:
```suggestion
instance (_ : n₀ + 1 = n₁) (_ : n₁ + 1 = n₂) (_ : n₂ + 1 = n₃) :
    Mono (X.dKernelSequence f₁ f₂ f₃ f₄ f₅ f₂₃ h₂₃ n₀ n₁ n₂ n₃ ‹_› ‹_› ‹_›).f :=
```

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 30]
```diff
@@ -0,0 +1,165 @@
...
+
+namespace Abelian
+
+variable {C ι : Type*} [Category* C] [Abelian C] [Category* ι]
+
+namespace SpectralObject
+
+variable (X : SpectralObject C ι)
+
+section
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]: It would perhaps be nice to give a title to this section.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 31]
```diff
@@ -0,0 +1,165 @@
...
+variable {i₀ i₁ i₂ i₃ i₄ i₅ i₆ i₇ : ι} (f₁ : i₀ ⟶ i₁) (f₂ : i₁ ⟶ i₂) (f₃ : i₂ ⟶ i₃)
+  (f₄ : i₃ ⟶ i₄) (f₅ : i₄ ⟶ i₅) (f₆ : i₅ ⟶ i₆) (f₇ : i₆ ⟶ i₇)
+  (f₂₃ : i₁ ⟶ i₃) (h₂₃ : f₂ ≫ f₃ = f₂₃)
+  (f₅₆ : i₄ ⟶ i₆) (h₅₆ : f₅ ≫ f₆ = f₅₆)
+  (n₀ n₁ n₂ n₃ n₄ : ℤ)
+
+/-- The short complex `E^{n-1}(f₅, f₆, f₇) ⟶ E^{n}(f₃, f₄, f₅) ⟶ E^{n+1}(f₁, f₂, f₃)`
+given by the differentials of a spectral object. -/
+@[simps!]
+noncomputable def dShortComplex
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean:117]: Again the `d`

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean [hunk 32]
```diff
@@ -0,0 +1,165 @@
...
+
+/-!
+# The homology of the differentials of a spectral object
+
+Let `X` be a spectral object indexed by a category `ι` in an abelian
+category `C`. Assume we have seven composable arrows
+`f₁`, `f₂`, `f₃`, `f₄`, `f₅`, `f₆`, `f₇` in `ι`. In this file,
+we compute the homology of the differentials, i.e. the homology of the short complex
+`E^{n - 1}(f₅, f₆, f₇) ⟶ E^n(f₃, f₄, f₅) ⟶ E^{n + 1}(f₁, f₂, f₃)`.
+The main definition for this is `dHomologyData` which is an homology data
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/SpectralObject/Homology.lean]: I think "a homology" rather than "an homology"

**Review by faenuccio — COMMENTED** [review]
Thanks! I've added some mostly cosmetic comments.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 24 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean:51]: There are other (co)kernel sequences that are defined in the `SpectralObject/*` files, so that the `d` helps figuring out which one it is.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 26 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean:66]: We usually do not squeeze the (nonterminal) `dsimp` in category theory.

Comment (faenuccio) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean:66]: Oh I see. Why so?

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 30 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean]: I do not see any reasonable short name that I could use here.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 27 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean:73]: Same as above.

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 30 above)
Comment (faenuccio) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean]: Perhaps `ExactSequence`?

File: Mathlib/Algebra/Homology/SpectralObject/Homology.lean (hunk 26 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/SpectralObject/Homology.lean:66]: When a specific lemma is used, it can be emphasized by using the syntax `dsimp [...]`, but when it is not needed, a plain `dsimp` makes the code more readable, and more  immune to changes in upstream code. This is also consistent with the recently added `dsimp%` elaborator #36043.
